US08808964B2
Synthesis of 4-hydroxynaphthyl-1-tetrahydrothiophenium 2-(adamantane-1-carbonyloxy)-1,1,3,3,3-pentafluoropropanesulfonate (PAG-1)
An aqueous solution of sodium 1,1,3,3,3-pentafluoro-2-(adamantane-1-carbonyloxy)propanesulfonate (corresponding to 0.021 mol) synthesized according to the formulation described in JP-A 2007-145797 was mixed with the aqueous solution of 4-hydroxynaphthyl-1-tetrahydrothiophenium chloride (corresponding to 0.023 mol) synthesized in Reference Synthesis Example 1. The mixture was extracted with 100 g of dichloromethane and 50 g of methyl isobutyl ketone. The organic layer was washed with water, and the solvent was distilled off in vacuum. The residue was poured into isopropyl ether for crystallization, filtered and dried, obtaining the target compound. White crystal, 6.2 g, yield 43%.

reactant | sodium 1,1,3,3,3-pentafluoro-2-(adamantane-1-carbonyloxy)propanesulfonate | 0.021 mol | FC(C(C(F)(F)F)OC(=O)C12CC3CC(CC(C1)C3)C2)(S(=O)(=O)[O-])F.[Na+]
reactant | 4-hydroxynaphthyl-1-tetrahydrothiophenium chloride | 0.023 mol | [Cl-].OC1=CC=C(C2=CC=CC=C12)[S+]1CCCC1
product | 4-hydroxynaphthyl-1-tetrahydrothiophenium 2-(adamantane-1-carbonyloxy)-1,1,3,3,3-pentafluoropropanesulfonate | yield 43% | C12(CC3CC(CC(C1)C3)C2)C(=O)OC(C(S(=O)(=O)[O-])(F)F)C(F)(F)F.OC2=CC=C(C3=CC=CC=C23)[S+]2CCCC2 | InChI=1S/C14H17F5O5S.C14H14OS/c15-13(16,17)10(14(18,19)25(21,22)23)24-11(20)12-4-7-1-8(5-12)3-9(2-7)6-12;15-13-7-8-14(16-9-3-4-10-16)12-6-2-1-5-11(12)13/h7-10H,1-6H2,(H,21,22,23);1-2,5-8H,3-4,9-10H2
